US04455315
16.7 g (0.1 mole) of 2,3-dichloromaleic anhydride is dissolved in 100 ml of dioxane, and a solution of 15.9 g (0.1 mole) of m-difluoromethoxyaniline in 30 ml of dioxane is added dropwise to it at room temperature over 20 minutes with stirring. Thereafter, the resulting solution is stirred at 70°-80° C. for 2 hours and the dioxane is then distilled off under a reduced pressure. Water is added to the residue to precipitate crystals. The precipitated crystals are filtered off and recrystallized to give 29.2 g (yield: 95%) of 2,3-dichloro-N-(m-difluoromethoxyphenyl)maleimide melting at 122°-124° C. in the form of light yellow plate crystals.

reactant | 2,3-dichloromaleic anhydride | 0.1 mole, 16.7 g | Cl/C=1/C(=O)OC(\C1\Cl)=O | C4Cl2O3
reactant | m-difluoromethoxyaniline | 0.1 mole, 15.9 g | FC(OC=1C=C(N)C=CC1)F | C7H7F2NO
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2,3-dichloro-N-(m-difluoromethoxyphenyl)maleimide | 29.2 g, yield: 95% | ClC=1C(=O)N(C(C1Cl)=O)C1=CC(=CC=C1)OC(F)F | C11H5Cl2F2NO3
